US06531613B1
A. Preparation of 2-[(2-ethylhexyl)oxy]-7H-benzo[de]anthracene-7-one
A 500 ml three neck flask was equipped with a mechanical stirrer, heating mantle and condenser. To the flask was added 25 g 2-hydroxy-7H-benzo[de]anthracene-7-one, 18 g powdered potassium carbonate, 25 g 2-ethylhexyl bromide and 250 g dimethylformamide (DMF). The mixture was heated to reflux. After seven hours, 4.5 g 2-ethylhexyl bromide was added and the mixture heated at reflux for an additional three hours. The mixture was then cooled to room temperature and 500 g deionized water was added. The solution was extracted twice with 200 g chloroform. The organic layers were combined and washed twice with 250 g water. The solvent was removed on a rotary evaporator, then the crude product was passed through a flash silica gel column using methylene chloride as the elutant. The product fractions were collected and the solvent removed using a rotary evaporator. The yield of 2-[(2-ethylhexyl)oxy]-7H-benzo[de]anthracene-7-one was 28.5 g.

reactant | 2-hydroxy-7H-benzo[de]anthracene-7-one | 25 g | OC1=CC2=C3C(C=CC=C3C(C=3C=CC=CC23)=O)=C1 | C17H10O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 2-ethylhexyl bromide | 25 g | C(C)C(CBr)CCCC | C8H17Br
reactant | dimethylformamide | 250 g | CN(C=O)C | C3H7NO
reactant | 2-ethylhexyl bromide | 4.5 g | C(C)C(CBr)CCCC | C8H17Br
solvent | water | O | H2O
product | 2-[(2-ethylhexyl)oxy]-7H-benzo[de]anthracene-7-one | C(C)C(COC1=CC2=C3C(C=CC=C3C(C=3C=CC=CC23)=O)=C1)CCCC | C25H26O2
